US07625902B2
In analogy to example 2, DL-serine was reacted with 4-toluenesulfonyl chloride to give 3-hydroxy-2-(toluene-4-sulfonylamino)-propionic acid.

reactant | DL-serine | NC(CO)C(=O)O | C3H7NO3
reactant | 4-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 3-hydroxy-2-(toluene-4-sulfonylamino)-propionic acid | OCC(C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C | C10H13NO5S
